US08685958B2
(3-(4-(6-oxa-2-azaspiro[3.4]octan-2-ylmethyl)-3-methylphenoxy)azetidin-1-yl)(5-phenyl-1,3,4-oxadiazol-2-yl)methanone
6-Oxa-2-azaspiro[3.4]octane HCl salt (0.064 g, 0.43 mmol) was dissolved in dichloromethane (2 ml). Triethylamine (0.064 ml, 0.47 mmol) was added, followed by 2-methyl-4-(1-(5-phenyl-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde (0.13 g, 0.36 mmol) and sodium triacetoxyhydroborate (0.152 g, 0.72 mmol). The mixture was stirred at ambient temperature overnight. The reaction mixture was diluted with dichloromethane (10 ml) and then shaken with NaHCO3. The two phases were separated by the use of a phase separator. Evaporation of dichloromethane afforded crude material, which was purified by preparative reverse-phase HPLC at pH 10 to give 66 mg (40%) of the desired product as a solid. 1H NMR (600 MHz, DMSO) δ 2.01 (t, 2H), 2.27 (s, 3H), 3.13 (q, 4H), 3.47 (s, 2H), 3.64 (t, 2H), 3.70 (d, 2H), 4.08 (dd, 1H), 4.51-4.56 (m, 1H), 4.63 (dd, 1H), 5.06-5.15 (m, 2H), 6.65 (dd, 1H), 6.71 (d, 1H), 7.18 (d, 1H), 7.62-7.73 (m, 3H), 8.06-8.11 (m, 2H). MS (APCI+) m/z 461.2 [M+H]+, LC purity: 98%

reactant | 6-Oxa-2-azaspiro[3.4]octane HCl salt | 0.43 mmol, 0.064 g | Cl.C1NCC12COCC2
reactant | Triethylamine | 0.47 mmol, 0.064 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-4-(1-(5-phenyl-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde | 0.36 mmol, 0.13 g | CC1=C(C=O)C=CC(=C1)OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=CC=C1 | C20H17N3O4
reactant | sodium | [Na] | Na
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3-(4-(6-oxa-2-azaspiro[3.4]octan-2-ylmethyl)-3-methylphenoxy)azetidin-1-yl)(5-phenyl-1,3,4-oxadiazol-2-yl)methanone | 66 mg, 40% | C1N(CC12COCC2)CC2=C(C=C(OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=CC=C1)C=C2)C | C26H28N4O4
